US06599902B2
Synthesis of 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-{4-[2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-3,5-dimethyl-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
To a mixture of {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid (100 mg, 0.19 mmol), HOBt (3 mg, 0.1 eq.), EDAC.HCl (44 mg, 1.2 eq.) and piperazin-1-ol (21 mg, 1.1 eq.) in DMF (2 mL) at rt was added TEA (0.067 mL, 2.5 eq.). After stirring at rt for 7 days, the reaction was concentrated, diluted with DCM (10 mL) and methanol (0.5 mL) and then mixed with solid sodium bicarbonate. After stirring at rt for 15 mins, the suspension was loaded onto a silica gel column to give the titled compound as an orange solid.

reactant | {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid | 0.19 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)O)C | C24H20Cl2N2O5S
reactant | HOBt | 3 mg, 0.1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC.HCl | 44 mg, 1.2 eq. | CCN=C=NCCCN(C)C.Cl
reactant | piperazin-1-ol | 21 mg, 1.1 eq. | N1(CCNCC1)O | C4H10N2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-(2,6-Dichloro-phenylmethanesulfonyl)-3-[1-{4-[2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-3,5-dimethyl-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)CC(=O)N1CCC(CC1)O)C | C29H29Cl2N3O5S
